US06251936B1
(2R)-2-[2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-cyclopentyl-phenoxy]-3-phenyl-propionic acid
To a solution of (2R)-2-[2-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-cyclopentyl-phenoxy]-3-phenyl-propionic acid methyl ester (1.0 g, 1.5 mmol) in tetrahydrofuran (30 mL) and methanol (10 mL) at room temperature was added dropwise aqueous potassium hydroxide (3.0 mL of a 1 N solution, 3.0 mmol). After 4 h the reaction mixture was concentrated under reduced pressure. The residue was taken up in water (100 mL) and acidified with aqueous 10% hydrochloric acid. After stirring for 15 min the solid was filtered and washed with water:methanol (95:5). The solid was dried under a vacuum at 50° C. for 18 h to yield the title compound as a white solid (0.99 g, 100%): Opt. Rot. [a]25/D=+38.44° (9.624 mg/mL, MeOH); NMR (DMSO-d6): δ13.01 (broad s, 1H), 8.19 (d, 1H), 7.67-7.62 (m, 1H), 7.54-7.22 (m, 9H), 4.92 (m, 1H), 3.46 (m, 1H), 3.34 (m, 2H), 2.42 and 2.41 (two singlets 3H, rotational isomers), 1.99 (m, 1H), 1.98 (m, 1H), 1.72-1.27 (m containing two s at δ1.57 and 1.53 (rotational isomers), 6H); MS(−ESI): [M−H], 2 bromine isotope pattern, 675 (72%), 677 (100%), 679 (66%); Anal. Calc. for C34H30Br2O3S: C, 60.19; H, 4.46; N, 0.00. Found: C, 59.53; H, 4.35; N, −0.04.

reactant | (2R)-2-[2-bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-cyclopentyl-phenoxy]-3-phenyl-propionic acid methyl ester | 1.5 mmol, 1.0 g | COC([C@@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1C1CCCC1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)Br)=O | C35H32Br2O3S
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | (2R)-2-[2-Bromo-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-6-cyclopentyl-phenoxy]-3-phenyl-propionic acid | 0.99 g, 100% | BrC1=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C(=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C2CCCC2 | C34H30Br2O3S
